US09193721B2
Step F: tert-Butyl 4-{5-chloro-6-[(formylamino)methyl]-3-(methoxycarbonyl)pyridin-2-yl}piperazine-1-carboxylate
tert-Butyl 4-{6-[(formylamino)methyl]-3-(methoxycarbonyl)pyridin-2-yl}piperazine-1-carboxylate (4.85 g, 0.0128 mol) and N-chlorosuccinimide (2.1 g, 15 mmol) was stirred in tetrahydrofuran (85 mL) at 50° C. for 16 hours. Evaporation and purification on silica gel using ethyl acetate in hexanes (0-80%) gave the desired compound (5.6 g, 100%). LCMS calculated for C18H26ClN4O5 (M+H)+: m/z=413.2. found: 412.9.

reactant | tert-Butyl 4-{6-[(formylamino)methyl]-3-(methoxycarbonyl)pyridin-2-yl}piperazine-1-carboxylate | 0.0128 mol, 4.85 g | C(=O)NCC1=CC=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H26N4O5
reactant | N-chlorosuccinimide | 15 mmol, 2.1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 85 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-{5-chloro-6-[(formylamino)methyl]-3-(methoxycarbonyl)pyridin-2-yl}piperazine-1-carboxylate | 5.6 g, 100% | ClC=1C=C(C(=NC1CNC=O)N1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H25ClN4O5
